US07217733B2
Homophenylalanine 3-nitrooxypropyl ester hydrochloride (3.85 g, 12.1 mmol) and N-[(2R)-2-(4-toluenesulfonyloxy) propionyl]-L-proline t-butyl ester (6.40 g, 16.1 mmol) were dissolved in DMF (15 mL) and triethylamine (3.9 mL, 28 mmol) was added to the solution. The reaction was stirred at room temperature for 48 hours, then N-[(2R)-2-(4-toluenesulfonyloxy)propionyl]-L-proline t-butyl ester (3.21 g, 8.1 mmol) was added again and the reaction stirred for further 48 hours. The reaction mixture was diluted with Et2O (100 mL), washed with brine (3×50 mL) dried over Na2SO4 and concentrated. The crude material was purified by flash chromatography (CHCl3/EtOAc 2:1) affording N-[(1S)-1-(3-nitrooxypropoxycarbonyl)-3-phenylpropyl]-L-alanyl-L-proline t-butyl ester as a clear oil (2.84 g, 46%). The product was dissolved in CH3CN (20 mL), maleic acid was added (0.69 g, 5.9 mmol) and the solvent was removed. The crude material was crystallised from EtOAc/iPr2O affording N-[(1S)-1-(3-nitrooxypropoxycarbonyl)-3-phenylpropyl]-L-alanyl-L-proline t-butyl ester hydrogen maleate as a white powder (2.27 g, 30%, 98%).

reactant | Homophenylalanine 3-nitrooxypropyl ester hydrochloride | 12.1 mmol, 3.85 g | Cl.[N+](=O)([O-])OCCCOC([C@@H](N)CCC1=CC=CC=C1)=O
reactant | N-[(2R)-2-(4-toluenesulfonyloxy) propionyl]-L-proline t-butyl ester | 16.1 mmol, 6.40 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](C)OS(=O)(=O)C1=CC=C(C=C1)C)=O)=O | C19H27NO6S
reactant | triethylamine | 28 mmol, 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | N-[(2R)-2-(4-toluenesulfonyloxy)propionyl]-L-proline t-butyl ester | 8.1 mmol, 3.21 g | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](C)OS(=O)(=O)C1=CC=C(C=C1)C)=O)=O | C19H27NO6S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | N-[(1S)-1-(3-nitrooxypropoxycarbonyl)-3-phenylpropyl]-L-alanyl-L-proline t-butyl ester | 2.84 g, 46% | C(C)(C)(C)OC([C@H]1N(CCC1)C([C@@H](N[C@@H](CCC1=CC=CC=C1)C(=O)OCCCO[N+](=O)[O-])C)=O)=O | C25H37N3O8
